US08067445B2
Step 2: 3-(4-Chloro-benzyl)-1-ethyl-1-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-urea
Prepared according to the procedure described in Example 33, Step 2, using the following starting materials: 1-(2-bromo-5-trifluoromethyl-benzyl)-3-(4-chloro-benzyl)-1-ethyl-urea and bis(pinacolato)diboron.

reactant | 1-(2-bromo-5-trifluoromethyl-benzyl)-3-(4-chloro-benzyl)-1-ethyl-urea | BrC1=C(CN(C(=O)NCC2=CC=C(C=C2)Cl)CC)C=C(C=C1)C(F)(F)F | C18H17BrClF3N2O
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 3-(4-Chloro-benzyl)-1-ethyl-1-[2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-5-trifluoromethyl-benzyl]-urea | ClC1=CC=C(CNC(N(CC2=C(C=CC(=C2)C(F)(F)F)B2OC(C(O2)(C)C)(C)C)CC)=O)C=C1 | C24H29BClF3N2O3
